US09029393B2
6-Bromo-N-cyclohexyl-N-ethyl-nicotinamide
Compound 26 was obtained according to general procedure II, method A, starting from 6-bromonicotinic acid, cyclohexylethylamine (5.0 equiv.) and using EDCI (4.5 equiv.) as coupling agent. The reaction was stopped after 12 days at R.T. and 12 Hrs at 80° C. Purification by flash-chromatography (AcOEt 20% in cyclohexane) afforded the product in 14% yield.

reactant | 6-bromonicotinic acid | BrC1=NC=C(C(=O)O)C=C1 | C6H4BrNO2
reactant | cyclohexylethylamine | 5.0 equiv. | C1(CCCCC1)CCN | C8H17N
reactant | EDCI | 4.5 equiv. | CCN=C=NCCCN(C)C | C8H17N3
product | 6-Bromo-N-cyclohexyl-N-ethyl-nicotinamide | 14% yield | BrC1=NC=C(C(=O)N(CC)C2CCCCC2)C=C1 | C14H19BrN2O
